US07381736B2
A 1.0 mL aliquot of 2-(3-bromophenyl)-1,3-dioxolane is added into magnesium (610 mg; 25 mmol) and THF (5 mL) under Argon. After the reaction is started, the residue of 2-(3-bromophenyl)-1,3-dioxolane (total: 5.73 g; 25 mmol) in THF (20 mL) is added dropwise into the reaction mixture. The resulting solution is stirred at room temp for six hours, and then at 50-60° C. for 20 hours. After the mixture is cooled, a solution of 3-(trifluoromethyl)-benzaldehyde (4.35 g; 25 mmol) in THF (20 mL) is added dropwise and the reaction is stirred at room temp for 24 hours. A saturated solution of NH4Cl (50 mL) is added and stirred for 30 minutes. The organic layer is separated and the aqueous layer is extracted with ethyl acetate (2×100 mL). The organic layers are combined and dried over anhydrous Na2SO4. The solvent is removed and the residue is purified by column chromatography on silica gel. Eluting with ethyl acetate/hexanes (20:80) provide a colorless oil (3.23 g; 40%) as (3-(1,3-dioxolan-2-yl)phenyl)[3-(trifluoromethyl)phenyl]-methan-1-ol: MS 307.0 (M−17).

reactant | 2-(3-bromophenyl)-1,3-dioxolane | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | magnesium | 25 mmol, 610 mg | [Mg] | Mg
reactant | 2-(3-bromophenyl)-1,3-dioxolane | 25 mmol, 5.73 g | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | 3-(trifluoromethyl)-benzaldehyde | 25 mmol, 4.35 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (3-(1,3-dioxolan-2-yl)phenyl)[3-(trifluoromethyl)phenyl]-methan-1-ol | O1C(OCC1)C=1C=C(C=CC1)C(O)C1=CC(=CC=C1)C(F)(F)F | C17H15F3O3
